US04518607
Bromomethyl-t-butyl ketone (17.9 g) (ref. J. Amer. Chem. Soc , 70, 2886 (1948)) was added to a solution of imidazole (34.1 g) in 34 ml of dimethylformamide. After stirring for 1 hour, 600 ml of water was added and the aqueous mixture extracted several times with ethyl acetate. The combined extracts were dried over sodium sulfate, concentrated, and the resulting oil chromatographed on silica gel, eluting with 5% methanol in methylene chloride, to give 3,3-dimethylbutan-2-on-1-yl imidazole.

reactant | Bromomethyl-t-butyl ketone | 17.9 g | BrCC(=O)C(C)(C)C | C6H11BrO
reactant | imidazole | 34.1 g | N1C=NC=C1 | C3H4N2
reactant | water | 600 ml | O | H2O
solvent | dimethylformamide | 34 ml | CN(C=O)C | C3H7NO
product | 3,3-dimethylbutan-2-on-1-yl imidazole | CC(C(CC=1NC=CN1)=O)(C)C | C9H14N2O
